US05902803
A solution of 0.56 g of (4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetic acid, 0.38 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.27 g of hydroxybenzotriazole and 1.1 ml of aniline in 20 ml of dimethylformamide is stirred under an argon atmosphere for 20 hours at a temperature in the region of 20° C. 20 ml of hydrochloric acid are added to the reaction mixture. The precipitate formed is filtered, washed with water and with isopropyl ether and then dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. The beige solid obtained is suspended in a solution of 20 ml of water and 84 mg of sodium hydrogencarbonate and then filtered and washed with water. The solid obtained is resuspended in 10 ml of 0.1N hydrochloric acid and then filtered, washed with water and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. 0.2 g of N-phenyl-2-(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetamide is obtained in the form of a white solid melting at a temperature greater than 260° C. (Analysis C21H16N4O2; % Calculated C: 70.77, H: 4.53, N: 15.72; % Found C: 70.74, H: 4.39, N: 15.64).

reactant | (4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetic acid | 0.56 g | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CC(=O)O)C=CN2 | C15H11N3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.38 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 0.27 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | aniline | 1.1 ml | NC1=CC=CC=C1 | C6H7N
reactant | sodium hydrogencarbonate | 84 mg | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 0.1N, 10 ml | Cl | ClH
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | N-phenyl-2-(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)acetamide | 0.2 g | C1(=CC=CC=C1)NC(CC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1)=O | C21H16N4O2
